US05496805
Following the procedure of Example 16, L-leucine is reacted with 3-acetylthio-2-methylpropanoyl chloride to give (±)-N-[3-(acetylthio)-2-methyl -1-oxopropyl]-L-leucine.

reactant | L-leucine | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | 3-acetylthio-2-methylpropanoyl chloride | C(C)(=O)SCC(C(=O)Cl)C | C6H9ClO2S
product | (±)-N-[3-(acetylthio)-2-methyl -1-oxopropyl]-L-leucine | C(C)(=O)SCC(C(=O)N[C@@H](CC(C)C)C(=O)O)C | C12H21NO4S
